US08193199B2
To a round-bottomed flask containing toluene (183 mL) was added 1-(2-chloro-8-fluoroquinolin-3-yl)ethanol (6.2 g, 27.5 mmol) and manganese dioxide (19.1 g, 219.8 mmol, 8 eq). The reaction was heated to reflux for 2 h, cooled to rt, filtered concentrated. The product was diluted with hexanes and filtered to give as a white solid 1-(2-chloro-8-fluoroquinolin-3-yl)ethanone. 1H NMR (400 MHz, CDCl3) δ ppm 8.40 (d, J=1.6 Hz, 1H), 7.71 (br d, J=8.2 Hz, 1H), 7.56 (td, J=7.8, 5.1 Hz, 1H), 7.54 (ddd, J=9.8, 7.8, 1.6 Hz, 1H). Mass Spectrum (ESI) m/e=223.9 (M+1).

reactant | 1-(2-chloro-8-fluoroquinolin-3-yl)ethanol | 27.5 mmol, 6.2 g | ClC1=NC2=C(C=CC=C2C=C1C(C)O)F | C11H9ClFNO
catalyst | manganese dioxide | 219.8 mmol, 19.1 g, 8 eq | [O-2].[O-2].[Mn+4]
solvent | toluene | 183 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chloro-8-fluoroquinolin-3-yl)ethanone | ClC1=NC2=C(C=CC=C2C=C1C(C)=O)F | C11H7ClFNO
